US07098212B2
[(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-pyridine-3-carbonyl)-amino]-acetic acid
To a solution of [(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-pyridine-3-carbonyl)-amino]-acetic acid methyl ester (0.043 g, 0.085 mmol) in tetrahydrofuran (1 mL), methanol (1 mL) and water (0.25 mL) was added lithium hydroxide monohydrate (0.018 g, 0.43 mmol). The reaction was stirred overnight. The reaction was then concentrated in vacuo, diluted with dichloromethane and passed through a fritted funnel. The filtrate was treated with saturated hydrogen chloride in diethyl ether and the white precipitate formed was collected by filtration to give the title compound (0.022 g, LRMS: 492.2).

reactant | [(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-pyridine-3-carbonyl)-amino]-acetic acid methyl ester | 0.085 mmol, 0.043 g | COC(CNC(=O)C=1C(=NC=C(C1)Cl)NCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C24H29ClFN5O4
reactant | lithium hydroxide monohydrate | 0.43 mmol, 0.018 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 0.25 mL | O | H2O
product | [(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethylamino}-pyridine-3-carbonyl)-amino]-acetic acid | 0.022 g | ClC=1C=C(C(=NC1)NCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)C(=O)NCC(=O)O | C23H27ClFN5O4
